US04000167
15 g of 1,6-dinitroanthraquinone and 45 ml of β-phenylethylamine are stirred at 50° - 55° C (approx. 3 hours being required) until no further starting material is detectable. The mixture is diluted with 45 ml of ethylene glycol monomethyl ether whilst warm and the reaction product which separates out is filtered off at 50° C and rinsed with a little ethylene glycol monomethyl ether and water. 13.6 g of pure 1-β-phenylethylamino-6-nitroanthraquinone are obtained.

reactant | 1,6-dinitroanthraquinone | 15 g | [N+](=O)([O-])C1=CC=CC=2C(C3=CC(=CC=C3C(C12)=O)[N+](=O)[O-])=O | C14H6N2O6
reactant | β-phenylethylamine | 45 ml | C1(=CC=CC=C1)CCN | C8H11N
solvent | ethylene glycol monomethyl ether | 45 ml | COCCO | C3H8O2
product | 1-β-phenylethylamino-6-nitroanthraquinone | 13.6 g | C1(=CC=CC=C1)CCNC1=CC=CC=2C(C3=CC(=CC=C3C(C12)=O)[N+](=O)[O-])=O | C22H16N2O4
